US07816395B2
c) 2-Chloro-4-{[(2-methylphenyl)methyl][(3S)-5-oxo-1-(2-oxoethyl)-3-pyrrolidinyl]amino}benzonitrile
An aqueous solution of sodium periodate (0.25 M in H2O, 12.8 mg, 0.06 mmol) was added to a solution of 2-chloro-4-{[(3S)-1-(2,3-dihydroxypropyl)-5-oxo-3-pyrrolidinyl][(2-methylphenyl)methyl]amino}benzonitrile (25.0 mg, 0.06 mmol) in THF. After stirring at room temperature for 30 min, the reaction mixture was extracted three times with ethyl acetate (5 mL). The organics were dried over anhydrous MgSO4 and concentrated to give the titled compound as white foam. The crude material was immediately used in the next step.

reactant | sodium periodate | 0.06 mmol, 0.25 M, 12.8 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 2-chloro-4-{[(3S)-1-(2,3-dihydroxypropyl)-5-oxo-3-pyrrolidinyl][(2-methylphenyl)methyl]amino}benzonitrile | 0.06 mmol, 25.0 mg | ClC1=C(C#N)C=CC(=C1)N(CC1=C(C=CC=C1)C)[C@@H]1CN(C(C1)=O)CC(CO)O | C22H24ClN3O3
solvent | THF | C1CCOC1 | C4H8O
product | 2-Chloro-4-{[(2-methylphenyl)methyl][(3S)-5-oxo-1-(2-oxoethyl)-3-pyrrolidinyl]amino}benzonitrile | ClC1=C(C#N)C=CC(=C1)N([C@@H]1CN(C(C1)=O)CC=O)CC1=C(C=CC=C1)C | C21H20ClN3O2
